US05859256
3-chloromethyl-4-chloropyridine hydrochloride
Thionyl chloride (0.714 mL, 9.78 mmol) was added at room temperature to dry DMF (7 mL). After 30 min the above solution was cannulated into the solution of 3-hydroxymethyl-4-chloropyridine (700 mg, 4.89 mmol) in DMF (3 mL). After 45 min, the product was precipitated by addition of dry ether (100 ml), washed with ether, and dried in vacuum to yield 813 mg (84%) of the title compound. 1H NMR (CD3OD) δ 5.00 (s, 2H), 8.31 (d, 1H, J=S), 8.99 (d, 1H, J=5), 9.18 (s, 1H).

reactant | Thionyl chloride | 9.78 mmol, 0.714 mL | S(=O)(Cl)Cl | Cl2OS
reactant | 3-hydroxymethyl-4-chloropyridine | 4.89 mmol, 700 mg | OCC=1C=NC=CC1Cl | C6H6ClNO
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
solvent | DMF | 7 mL | CN(C)C=O | C3H7NO
product | 3-chloromethyl-4-chloropyridine hydrochloride | 813 mg, 84% | Cl.ClCC=1C=NC=CC1Cl | InChI=1S/C6H5Cl2N.ClH/c7-3-5-4-9-2-1-6(5)8;/h1-2,4H,3H2;1H
